US07915415B2
2,9-Di-t-butyl-6-chlorophenanthridine (3.7 grams, 11.0 mmole) was added to a reaction flask containing aminoacetaldehyde dimethylacetal (2.4 grams, 23 mmole) dissolved into 200 mL of diglyme, heated to reflux and stirred under a nitrogen atmosphere. After 96 hours the reaction was complete as determined by TLC. The reaction mixture was cooled to room temperature and the excess solvent removed by distillation. The residue was taken up into methylene chloride. The solvent was dried over magnesium sulfate filtered and concentrated. The crude product was purified by silica gel chromatography using 10% ethyl acetate and 90% methylene chloride as the eluents. The purified product was collected, washed with hexanes, and dried to give 7,10-di-tert-butyl-imidazo[1,2-f]phenanthridine (2.0 grams, 56% yield) as a white solid.

reactant | 2,9-Di-t-butyl-6-chlorophenanthridine | 11.0 mmole, 3.7 grams | C(C)(C)(C)C1=CC2=C3C=C(C=CC3=C(N=C2C=C1)Cl)C(C)(C)C | C21H24ClN
reactant | aminoacetaldehyde dimethylacetal | 23 mmole, 2.4 grams | COC(CN)OC | C4H11NO2
solvent | diglyme | 200 mL | COCCOCCOC | C6H14O3
product | 7,10-di-tert-butyl-imidazo[1,2-f]phenanthridine | 2.0 grams, 56% yield | C(C)(C)(C)C1=CC=2C=3C=C(C=CC3C=3N(C2C=C1)C=CN3)C(C)(C)C | C23H26N2
